US08193359B2
4-(Furo[3,2-c]pyridin-2-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester
NaH (4.4 mg of a 60% dispersion in mineral oil, 110 μmol) was added to a stirred solution of 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (20.2 mg, 100 μmol) in anhydrous THF (1 mL). After 1 h, the mixture was added to a stirred solution of 2-bromomethylfuro[3,2-c]pyridine hydrochloride (Preparation 5, 25.0 mg, 100 μmol) in anhydrous THF (2 mL) which had been pretreated with NaH (4.4 mg of a 60% dispersion in mineral oil, 110 μmol). The mixture was stirred for 16 h at 20° C., before being treated with Bu4NI (3.7 mg, 10 μmol) and heated at 60° C. for 4 h. On cooling, the reaction mixture was quenched with H2O (5 mL), before being extracted with EtOAc (2×5 mL). The combined organic extracts were dried (MgSO4), filtered, concentrated, and purified by flash chromatography (IH-EtOAc, 2:3) to yield the title compound: RT=2.64 min; m/z (ES+)=333.3 [M+H]+.

reactant | NaH | [H-].[Na+]
reactant | 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 100 μmol, 20.2 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-bromomethylfuro[3,2-c]pyridine hydrochloride | 100 μmol, 25.0 mg | Cl.BrCC1=CC=2C=NC=CC2O1
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Bu4NI | 10 μmol, 3.7 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
product | 4-(Furo[3,2-c]pyridin-2-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC1=CC=2C=NC=CC2O1 | C18H24N2O4
